US07691869B2
To a solution of 3.0 g (19 mmol) of 2,4-difluorobenzoic acid and 4 mL of DIEA (1.2 equiv.) in 40 mL of dry DCM is added 3.08 g (1.2 equiv) of HOBt and 4.2 g (22.55 mmol) of t-butyl piperazine-1-carboxylate, and the mixture was stirred at RT for 30 min. 4.4 g (11 equiv.) of EDCl are added and the reaction mixture is stirred overnight at RT. Water is added and the resulting mixture is extracted with DCM. The organic layer is dried over anhydrous MgSO4, filtered and concentrated in vacuo to obtain t-butyl 4-(2,4-difluorobenzoyi)piperazine-1-carboxylate as a yellow oil: 1H NMR (CDCl3, 400 MHz) δ 1.47 (s, 9H), 3.30 (m, 2H), 3.41 (m, 2H), 3.53 (m, 2H), 3.76 (m, 2H), 6.86 (dt, 1H, J=8.8 Hz and 0.8 Hz), 6.97 (dt, 1H, J=8.8 Hz and 0.8 Hz), 7.41 (dd, 1H, J=14.4 Hz and 7.2 Hz).

reactant | 2,4-difluorobenzoic acid | 19 mmol, 3.0 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | DIEA | 4 mL, 1.2 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 3.08 g, 1.2 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | t-butyl piperazine-1-carboxylate | 22.55 mmol, 4.2 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | EDCl | 4.4 g, 11 equiv. | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | t-butyl 4-(2,4-difluorobenzoyi)piperazine-1-carboxylate | FC1=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)F | C16H20F2N2O3
